### PR TITLE
[Merged by Bors] - feat(Logic/Function): define predicate for constant function

### PR DESCRIPTION
**Pull request by martinwintermath**
Adds

* `Function.IsConst`

as a canonical way to express that a function is constant without specifying its value. 
Currently, this can be expressed by any of

* `∀ x y, f x = f y`
* `∃ b, f = const α b`
* `∃ b, ∀ x, f x = b`

We propose to use the first one since it also works for functions where the codomain is empty.

We also add

```lean4
theorem eq_const_iff {f : α → β} {b : β} : f = const α b ↔ ∀ a : α, f a = b
```

to Function.Basic.lean

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Function/Const.lean [hunk 1]
```diff
@@ -0,0 +1,123 @@
...
+/- All function on into a subsingleton codomain are constant. -/
+theorem IsConst.of_subsingleton_codomain [Subsingleton β] (f : α → β) : IsConst f :=
+  fun _ _ => Subsingleton.elim _ _
+
+theorem IsConst.of_forall_eq {f : α → β} (b : β) (h : ∀ x, f x = b) : IsConst f :=
+  fun x y => (h x).trans (h y).symm
+
+/-- A function `f : α → β` is constant on a non-empty domain if and only if there is `b : β` so that
+`f a = b` for all `a : α`. -/
+theorem isConst_iff_exists_eq [Nonempty α] {f : α → β} :
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]: This can be weakened to `[Nonempty β]`.

File: Mathlib/Logic/Function/Const.lean [hunk 2]
```diff
@@ -0,0 +1,123 @@
...
+/-- A function `α → β` is constant on a non-empty domain if and only if there is `b : β` so that
+the function can be written as `Function.const α b`. -/
+theorem isConst_iff_exists_eq_const [Nonempty α] {f : α → β} :
+    IsConst f ↔ ∃ b, f = const α b := by
+  rw [isConst_iff_exists_eq]
+  constructor
+  · rintro ⟨b, hb⟩
+    exact ⟨b, funext hb⟩
+  · rintro ⟨b, hb⟩
+    exact ⟨b, congrFun hb⟩
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
  simp only [isConst_iff_exists_eq, funext_iff, const_apply]
```

File: Mathlib/Logic/Function/Const.lean [hunk 3]
```diff
@@ -0,0 +1,123 @@
...
+    ¬ IsConst f ↔ ∃ x y, f x ≠ f y := by classical
+  constructor
+  · intro h
+    by_contra h'
+    apply h
+    intro x y
+    by_contra hxy
+    exact h' ⟨x, y, hxy⟩
+  · rintro ⟨x, y, hxy⟩ hf
+    exact hxy (hf x y)
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
theorem not_isConst_iff_exists_apply_ne {f : α → β} :
    ¬ IsConst f ↔ ∃ x y, f x ≠ f y := by
  simp [isConst_iff]
```

File: Mathlib/Logic/Function/Const.lean [hunk 4]
```diff
@@ -0,0 +1,123 @@
...
+    exact ⟨b, funext hb⟩
+  · rintro ⟨b, hb⟩
+    exact ⟨b, congrFun hb⟩
+
+theorem IsConst.congr {f g : α → β} (hf : IsConst f) (hfg : ∀ x, f x = g x) : IsConst g :=
+  fun x y => (hfg x).symm.trans ((hf x y).trans (hfg y))
+
+theorem isConst_congr {f g : α → β} (hfg : ∀ x, f x = g x) :
+    IsConst f ↔ IsConst g :=
+  ⟨fun hf => hf.congr hfg, fun hg => hg.congr fun x => (hfg x).symm⟩
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]: I'm not sure we need these, since we can just use `rw [funext hfg]` or `conv`.

File: Mathlib/Logic/Function/Const.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+see `isConst_iff_exists_eq_const`.
+-/
+
+public section
+
+namespace Function
+
+universe u v w
+
+variable {α : Sort u} {β : Sort v} {γ : Sort w}
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
variable {α β γ : Sort*}
```

File: Mathlib/Logic/Function/Const.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+
+/-- A function is constant if it takes equal values at any two inputs.
+
+Note that a function with empty domain and codomain is considered constant.
+If a constant function has non-empty domain, then it can be represented by `Function.const`,
+see `isConst_iff_exists_eq_const`.
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
Note that a function with empty domain is considered constant.
If a constant function has non-empty codomain, then it can be represented by `Function.const`,
see `isConst_iff_exists_eq_const`.
```

File: Mathlib/Logic/Function/Const.lean [hunk 7]
```diff
@@ -0,0 +1,122 @@
...
+
+The intended use is for expressing that a function is constant when the exact constant value is
+not known, unqiue or easily expressible. If the constant value can be stated explicitly, one
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
not known, unique or easily expressible. If the constant value can be stated explicitly, one
```

File: Mathlib/Logic/Function/Const.lean [hunk 8]
```diff
@@ -0,0 +1,122 @@
...
+that `f a = b` for all `a : α`. -/
+theorem isConst_iff_exists_forall_eq [Nonempty β] {f : α → β} :
+    IsConst f ↔ ∃ b, ∀ x, f x = b where
+  mp hf := by
+    cases isEmpty_or_nonempty α
+    · exact ⟨Classical.arbitrary β, isEmptyElim⟩
+    · exact ⟨f (Classical.arbitrary α), fun x => hf x _⟩
+  mpr := by
+    rintro ⟨b, hb⟩ x y
+    exact (hb x).trans (hb y).symm
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
  mpr := fun ⟨b, hb⟩ => .of_forall_eq b hb
```

File: Mathlib/Logic/Function/Const.lean [hunk 9]
```diff
@@ -0,0 +1,122 @@
...
+  fun x y => hg (f x) (f y)
+
+theorem not_isConst_of_apply_ne {f : α → β} {x y : α} (h : f x ≠ f y) :
+    ¬ IsConst f := fun hf => h (hf x y)
+
+theorem not_isConst_iff_exists_apply_ne {f : α → β} :
+    ¬ IsConst f ↔ ∃ x y, f x ≠ f y := by
+  simp [isConst_iff]
+
+/-- The identity function on a type is constant if and only if the type is a singleton. -/
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
/-- The identity function on a type is constant if and only if the type is a subsingleton. -/
```

File: Mathlib/Logic/Function/Const.lean [hunk 10]
```diff
@@ -0,0 +1,122 @@
...
+    IsConst f ↔ ∃ b, f = const α b :=
+  haveI := Nonempty.map f inferInstance; isConst_iff_exists_eq_const
+
+/-- Postcomposition preserves being constant. -/
+theorem IsConst.comp {f : α → β} (hf : IsConst f) (g : β → γ) :
+    IsConst (g ∘ f) :=
+  fun x y => congrArg g (hf x y)
+
+/-- Precomposing a constant function gives a constant function. -/
+theorem IsConst.comp_left {g : β → γ} (hg : IsConst g) (f : α → β) :
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]: I think this should be called `comp_right`, like [`Set.MapsTo.comp_left`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Function.html#Set.MapsTo.comp_left) and [`Set.MapsTo.comp_right`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Function.html#Set.MapsTo.comp_right).  I'd also rename `comp` to `comp_left` for symmetry.

File: Mathlib/Logic/Function/Const.lean (hunk 8 above)
Comment (YanYablonovskiy) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
theorem isConst_iff_exists_forall_eq [Nonempty β] {f : α → β} : IsConst f ↔ ∃ b, ∀ x, f x = b := by
  refine ⟨fun hf ↦ ?_, fun ⟨b, hb⟩ _ ↦ by grind⟩  
  · exact (isEmpty_or_nonempty α).elim (fun _ ↦ by simp) 
      fun _ ↦ ⟨f (Classical.arbitrary _), fun _ ↦ hf ..⟩
```
I think as this one's doc basically is almost the proof, and its not too informative/insightful, perhaps better this way. I also think there is no need for where here, as its an iff theorem, those are typically assumed to be known. And the notation implies this, so not sure its worth the extra verbosity.

**Comment by YanYablonovskiy** [comment]
-awaiting-author

File: Mathlib/Logic/Function/Const.lean [hunk 11]
```diff
@@ -0,0 +1,122 @@
...
+
+/-!
+# Constant functions
+
+This file defines `Function.IsConst`, the predicate that a function takes the same value
+at every pair of inputs.
+
+Note that a function with empty domain and codomain is considered constant.
+If a constant function has non-empty domain, then it can be represented by `Function.const`,
+see `isConst_iff_exists_eq_const`.
```
Comment (gasparattila) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
Note that a function with empty domain is considered constant.
If a constant function has non-empty codomain, then it can be represented by `Function.const`,
see `isConst_iff_exists_eq_const`.
```

**Comment by gasparattila** [comment]
awaiting-author

File: Mathlib/Logic/Function/Const.lean (hunk 8 above)
Comment (YanYablonovskiy) [reply Mathlib/Logic/Function/Const.lean]: I had made a suggestion above (just in case you didnt see)

Comment (YanYablonovskiy) [reply Mathlib/Logic/Function/Const.lean]: The `· ` is optional for readability, there is only one goal there. And if you want longer lines you can expand via a deeper `refine`, but may not be worth it.

Comment (martinwintermath) [reply Mathlib/Logic/Function/Const.lean]: I slightly favor the more verbose version, but not strongly so. Perhaps @gasparattila could give an opinion since they suggested changes to the same part of the code.

Comment (YanYablonovskiy) [reply Mathlib/Logic/Function/Const.lean]: @YaelDillies  Pleading to help me out here...but yea , no  worries. Maybe I am wrong, but you gave no justifications here to me, or addressed a thing I said.  And I dont know who that is you tagged, but they mostly suggested typo fixes.

And their suggestion was after mine, and came with no justification.

Comment (martinwintermath) [reply Mathlib/Logic/Function/Const.lean]: To be honest, I don't understand the argument:

> I also think there is no need for where here, as its an iff theorem, those are typically assumed to be known. And the notation implies this, so not sure its worth the extra verbosity.

The use of `where` is not uncommon for iff theorems. Again, I don't have a strong opinion. I just don't want to get into an edit war if other reviewers have a different opinion.

I tagged Attila because they suggested https://github.com/leanprover-community/mathlib4/pull/42713#discussion_r3785581789, on which you commented.

Comment (themathqueen) [reply Mathlib/Logic/Function/Const.lean]: I think this is a style preference. Some people prefer doing this with `where`, while others without.

Comment (YanYablonovskiy) [reply Mathlib/Logic/Function/Const.lean]: @martinwintermath  And finally, I would like you to consider, what tactic mode is for, why tactics even exist, and what possible math insight there is to deliberate on the specific tiny details, when the entire statement in regular math is ...a relic of formalisation? Can you possibly imagine someone, in maths, even daring to write that much detail for 
```
/-- A function `f : α → β` is constant on a non-empty codomain if and only if there is `b : β` so
that `f a = b` for all `a : α`. -/
```
I dont think they would even dare to say that even as a sentence, to avoid patronizing right? But we have to when we formalise, and thats what I HUMBLY believe tactics are for.

Comment (gasparattila) [reply Mathlib/Logic/Function/Const.lean]: I don't have a strong opinion either, though I think `cases` might be slightly cleaner than `elim` because the arguments aren't mentioned. I agree with @YanYablonovskiy that the first case should use `simp`.

Comment (YanYablonovskiy) [reply Mathlib/Logic/Function/Const.lean]: > I think this is a style preference. Some people prefer doing this with `where`, while others without.

the where part isnt the big deal to be honest, but there is no need to avoid grind/simp for some of these, they dont spell out any insight (unless I am missing something?).

The elim is just using "LEM", to do empty or nonempty on the other type. My version specifically keeps that core detail, thats one of the few there really.

Comment (martinwintermath) [reply Mathlib/Logic/Function/Const.lean]: How about now?

Comment (YanYablonovskiy) [reply Mathlib/Logic/Function/Const.lean]: Yea i think thats a good amount of detail, the rest is whatever. I do think such sparse info lines can be a bit rough in the overhead per LOC vs information density they provide, like one of the reasons I put simp there like that, is because as you noted, it obscures. 

So that full line you have now, it just says little when you read it, because of that. And thus I think it makes sense to make it a tiny part thats not its own line. Anyway considerations like that formed my version.

(In this case I believe it obscures the exact right dry formalisms to expose more of the core "math insight" part of this theorem though, tactics obscure by nature, but Leans focus on math has aided in their placements)

Comment (YanYablonovskiy) [reply Mathlib/Logic/Function/Const.lean]: Oh and i will say, that `grind` , that is the exact usage its for. So its not really clear to me why you would avoid it.

Anyway I dont like that no one here addressed any of why I used it, even though i explained a lot, its like its some sin to use `grind` for that, which is its clear use case, so I think this is getting to bike shedding. Do whatever, i clearly dont have your respect to consider what I am saying.

Comment (YaelDillies) [reply Mathlib/Logic/Function/Const.lean]: I quite like `where` for iffs myself

Comment (YanYablonovskiy) [reply Mathlib/Logic/Function/Const.lean]: **EDIT**: HAHAH NEVERMIND reading back I realised, this is literally just how math and math academia is overall. MBBBB. Maybe OSS is not the best name for this monster. Back to it soldiers, AI wont prompt itself.
______

Fair. I came back to this with a sober mind, unfortunately it all looks so much worse now than it did before, as in my view of how this went overall. 

In OSS ive done on other acc, like, you SAY stuff and JUSTIFY stuff at least a bit and then bounce off and both people learn etc. 

Idk what that convo was, idk why that other suggestion was applied , because it literally had no justification, and came after mine anyway. 

I dont know why i had to fight tooth and nail for something so simple, but not as to the actual substance of my argument.

I dont know why the other person, ignored my polite reaching out about this conflict of suggestions, and seemingly rudely continues to ignore....

If you arent in math, or adjacent, etc academia, OR MI, or have such a potential future -- Mathlib as OSS is a horrifically unfun social experience.

As a pure volunteer completely outside the ecosystem , that was a weirdly jarring thanklessness/entitlement as to the charity time invested to thoughtfully review. 

I assure you unlike your potentially strange reality over there, no one here knows or cares, I do this for passion, it has only hurt me materially via opportunity cost. And frankly, as a machine can do Lean better than 99% of you (note I did not say me). Why am I even trying to learn lean together?

What did any of you give back here? What did I learn here? I got no feedback POSITIVE or NEGATIVE as to the thinking of my changes, AND for the cherry on top, the OP made sure to copy around me so even if you track through Bors somehow, I am not officially part of the commits related to this.

Its just..remarkable guys. Its like, youd think these MIGHT finally be "my people" a bit given the niche, but I get along better with strangers on my bus to work, than trying to work with the community I have been passionate about for years. That is not even very passionate ABOUT ITSELF seemingly??

File: Mathlib/Logic/Function/Const.lean [hunk 12]
```diff
@@ -0,0 +1,117 @@
...
+the function can be written as `Function.const α b`. -/
+theorem isConst_iff_exists_eq_const [Nonempty β] {f : α → β} :
+    IsConst f ↔ ∃ b, f = const α b := by
+  simp only [isConst_iff_exists_forall_eq, funext_iff, const_apply]
+
+/-- A function `α → β` is constant on a non-empty domain if and only if there is `b : β` so that
+the function can be written as `Function.const α b`. -/
+theorem isConst_iff_exists_eq_const_of_nonempty_domain [Nonempty α] {f : α → β} :
+    IsConst f ↔ ∃ b, f = const α b :=
+  haveI := Nonempty.map f inferInstance; isConst_iff_exists_eq_const
```
Comment (SnirBroshi) [inline Mathlib/Logic/Function/Const.lean]: I thought there's a new linter for this
```suggestion
  have := Nonempty.map f inferInstance; isConst_iff_exists_eq_const
```

File: Mathlib/Logic/Function/Const.lean [hunk 13]
```diff
@@ -0,0 +1,117 @@
...
+    ¬ IsConst f := fun hf ↦ h (hf x y)
+
+theorem not_isConst_iff_exists_apply_ne {f : α → β} :
+    ¬ IsConst f ↔ ∃ x y, f x ≠ f y := by
+  simp [isConst_iff]
+
+/-- The identity function on a type is constant if and only if the type is a subsingleton. -/
+@[simp]
+theorem isConst_id_iff : IsConst (id : α → α) ↔ Subsingleton α :=
+  ⟨fun h ↦ ⟨fun x y ↦ h x y⟩, fun _ ↦ .of_subsingleton_domain _⟩
```
Comment (SnirBroshi) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
  ⟨(⟨·⟩), fun _ ↦ .of_subsingleton_domain _⟩
```

File: Mathlib/Logic/Function/Const.lean [hunk 14]
```diff
@@ -0,0 +1,117 @@
...
+  mp hf := (isEmpty_or_nonempty α).elim
+    fun _ ↦ by simp
+    fun _ ↦ ⟨f (Classical.arbitrary α), fun _ ↦ hf ..⟩
+  mpr _ _ := by grind
+
+/-- A function `f : α → β` is constant on a non-empty domain if and only if there is `b : β` so
+that `f a = b` for all `a : α`. -/
+theorem isConst_iff_exists_forall_eq_of_nonempty_domain [Nonempty α] {f : α → β} :
+    IsConst f ↔ ∃ b, ∀ x, f x = b :=
+  haveI := Nonempty.map f inferInstance; isConst_iff_exists_forall_eq
```
Comment (SnirBroshi) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
  have := Nonempty.map f inferInstance; isConst_iff_exists_forall_eq
```

File: Mathlib/Logic/Function/Const.lean [hunk 15]
```diff
@@ -0,0 +1,117 @@
...
+see `isConst_iff_exists_eq_const`.
+
+The intended use is for expressing that a function is constant when the exact constant value is
+not known, no unique or not easy to express. To state the constant value explicitly,
+use `Function.const`. -/
+def IsConst (f : α → β) : Prop :=
+  ∀ x y, f x = f y
+
+theorem isConst_iff {f : α → β} :
+    IsConst f ↔ ∀ x y, f x = f y :=
```
Comment (SnirBroshi) [inline Mathlib/Logic/Function/Const.lean:41]: Could you also add

```lean
@[simp]
theorem _root_.Setoid.ker_eq_top {f : α → β} : Setoid.ker f = ⊤ ↔ IsConst f :=
  Setoid.ker f |>.eq_top_iff
```
which is another spelling

File: Mathlib/Logic/Function/Const.lean (hunk 8 above)
Comment (gasparattila) [reply Mathlib/Logic/Function/Const.lean]: @YanYablonovskiy I didn't mean to imply that your suggestion was wrong, we just posted our reviews at the same time. You can check the timestamps to see that I actually wrote that comment earlier, I just sent my review later.

Also, I have no issue with your `grind` suggestion, but the proof here is so simple that it's essentially a style preference, so I felt that there's no point in arguing about it.

Comment (YanYablonovskiy) [reply Mathlib/Logic/Function/Const.lean]: > @YanYablonovskiy I didn't mean to imply that your suggestion was wrong, we just posted our reviews at the same time. You can check the timestamps to see that I actually wrote that comment earlier, I just sent my review later.
> 
> 
> 
> Also, I have no issue with your `grind` suggestion, but the proof here is so simple that it's essentially a style preference, so I felt that there's no point in arguing about it.

No worries , and yea I don't mean to argue either , I just want to seek an optimal solution , grounded in some metric or logic. 

As I said I get no pragmatic benefit , I spent time here only trying to help. But if not that , I also want to learn why I am wrong . Silence was a bit deafening.

And that was my point about your thing specifically , was simply the silence was a bit defeaning. So I truly appreciate you for taking the time in saying this!

File: Mathlib/Logic/Function/Const.lean [hunk 16]
```diff
@@ -0,0 +1,118 @@
...
+@[simp]
+theorem IsConst.const (b : β) :
+    IsConst (const α b) := fun _ _ ↦ rfl
+
+/-- All function on a subsingleton domain are constant. -/
+@[simp]
+theorem IsConst.of_subsingleton_domain [Subsingleton α] (f : α → β) : IsConst f :=
+  fun _ _ ↦ congrArg f <| Subsingleton.elim _ _
+
+/-- All function on into a subsingleton codomain are constant. -/
```
Comment (YaelDillies) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
/-- All function to a subsingleton codomain are constant. -/
```

File: Mathlib/Logic/Function/Const.lean [hunk 17]
```diff
@@ -0,0 +1,118 @@
...
+/-- A function is constant if it takes equal values at any two inputs.
+
+Note that a function with empty domain is considered constant.
+If a constant function has non-empty co domain, then it can be represented by `Function.const`,
+see `isConst_iff_exists_eq_const`.
+
+The intended use is for expressing that a function is constant when the exact constant value is
+not known, no unique or not easy to express. To state the constant value explicitly,
+use `Function.const`. -/
+def IsConst (f : α → β) : Prop :=
```
Comment (YaelDillies) [inline Mathlib/Logic/Function/Const.lean:37]: Surely this should be exposed?
```suggestion
@[expose]
def IsConst (f : α → β) : Prop :=
```

**Review by YaelDillies — COMMENTED** [review]
Can you justify why we should add this definition now given that we have done just fine without it for nine years?

**Comment by martinwintermath** [comment]
> Can you justify why we should add this definition now given that we have done just fine without it for nine years?

I always perceived this as obviously missing API for a basic concept.

Besides that, I can give only vague justifications. I used it in the polyhedral project and found it to be useful. E.g. stating that an affine map is constant is not as convenient with existing API as stating that a linear map is constant. The latter would be constant zero, whereas the former has no specified value.

I made this PR in the expectation that someone would give me a good reasons for why this is a bad idea. So far no one objected. So my impression is that it would not hurt, especially since the use case is clearly separated from `Function.const`.

File: Mathlib/Logic/Function/Const.lean [hunk 18]
```diff
@@ -0,0 +1,119 @@
...
+theorem isConst_iff {f : α → β} :
+    IsConst f ↔ ∀ x y, f x = f y :=
+  .rfl
+
+theorem IsConst.eq {f : α → β} (hf : IsConst f) (x y : α) :
+    f x = f y :=
+  hf x y
+
+@[simp]
+theorem IsConst.const (b : β) :
```
Comment (YaelDillies) [inline Mathlib/Logic/Function/Const.lean]:
```suggestion
protected theorem IsConst.const (b : β) :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by j-loreaux — COMMENTED** [review]
I have also felt this was missing API but never had the proclivity or the time to fill it. Thanks!

@martinwintermath it would be very much appreciated if you went through the library and switched out hypotheses or conclusions of results using this concept so that we get widespread traction with it. I'm happy to review that follow-up PR if you ping me.

bors r+

**Comment by martinwintermath** [comment]
> I have also felt this was missing API but never had the proclivity or the time to fill it. Thanks!
> 
> @martinwintermath it would be very much appreciated if you went through the library and switched out hypotheses or conclusions of results using this concept so that we get widespread traction with it. I'm happy to review that follow-up PR if you ping me.
> 
> bors r+

Thanks! Good idea, I hope to find time for this soon. I let you know.

**Comment by grunweg** [comment]
(I'd also be happy to review such a PR.)

**Comment by SnirBroshi** [comment]
If it helps, here's a list of decls I found (with hacky metaprogramming) that seem to use some `IsConst` expression:

- `∃ b, f = Function.const α b`:
  <details>
  <summary>9 decls</summary>

  ```
  eq_const_of_measurable_bot
  MeasureTheory.AEEqFun.coeFn_const_eq'
  stronglyMeasurable_bot_iff
  Differentiable.exists_eq_const_of_bounded
  IsLocallyConstant.exists_eq_const
  MDifferentiable.exists_eq_const_of_compactSpace
  ModularForm.eq_const_of_weight_zero
  ModularFormClass.levelOne_weight_zero_const
  Set.exists_eq_const_of_preimage_singleton
  ```
  </details>
- `∃ b, ∀ a, f a = b`:
  <details>
  <summary>17 decls</summary>

  ```
  Affine.Simplex.exists_forall_dist_eq_iff_exists_excenterExists_and_eq_excenter
  Affine.Simplex.exists_forall_signedInfDist_eq_iff_eq_incenter
  Affine.Simplex.orthogonalProjection_eq_circumcenter_of_exists_dist_eq
  AnalyticOnNhd.is_constant_or_isOpenMap
  Combinatorics.Line.IsMono
  Combinatorics.Subspace.IsMono
  Differentiable.exists_const_forall_eq_of_bounded
  MeasureTheory.SimpleFunc.simpleFunc_bot
  SimpleGraph.radius_eq_ediam_iff
  CategoryTheory.constant_of_preserves_morphisms'
  CategoryTheory.discreteSieve
  CategoryTheory.discreteSieve_apply
  CategoryTheory.isCardinalFiltered_iff
  CategoryTheory.isCardinalFiltered_iff_aux₁
  CategoryTheory.isCardinalFiltered_iff_aux₂
  CategoryTheory.isCardinalFiltered_iff'
  CategoryTheory.IsCardinalFiltered.wideSpan
  ```
  </details>
- `∀ x y, f x = f y`:
  <details>
  <summary>108 decls</summary>

  ```
  Affine.Simplex.dist_incenter_eq_dist_incenter
  Affine.Simplex.ExcenterExists.dist_excenter_eq_dist_excenter
  Algebra.discr_eq_discr
  Algebra.Extension.H1Cotangent.map_eq
  Complex.liouville_theorem_aux
  Configuration.ProjectivePlane.lineCount_eq_lineCount
  Configuration.ProjectivePlane.pointCount_eq_pointCount
  constant_of_monotone_antitone
  continuous_of_const
  DependsOn.empty
  Differentiable.apply_eq_apply_of_bounded
  DivisibleHull.archimedeanClassMk_mk_eq
  eHolderNorm_eq_zero
  EisensteinSeries.gammaSet_one_const
  eq_of_germ_isConstant
  FinEnum.card_unique
  Finset.filter_congr_decidable
  Finset.HasAntidiagonal.congr
  Finset.HasMulAntidiagonal.congr
  Finset.weightedVSubOfPoint_eq_of_sum_eq_zero
  Finset.weightedVSubOfPoint_vadd_eq_of_sum_eq_one
  Function.Periodic.intervalIntegral_add_eq
  holderWith_zero_iff
  HomotopicalAlgebra.ReedyStructure.unique_obj
  HomotopyGroup.auxGroup_indep
  InnerProductSpace.bounded_harmonic_on_complex_plane_is_constant
  is_const_of_deriv_eq_zero
  is_const_of_fderiv_eq_zero
  IsCoveringMap.const_of_comp
  IsLocallyConstant.apply_eq_of_preconnectedSpace
  IsLocallyConstant.iff_is_const
  IsLocallyConstant.of_constant
  IsPrimitiveRoot.sum_eq_zero_iff_forall_eq
  IsPrimitiveRoot.sum_eq_zero_iff_forall_eq_int
  IsSeparatedMap.const_of_comp
  LipschitzWith.zero_iff
  LocallyConstant.apply_eq_of_preconnectedSpace
  Matrix.detp_eq_of_col_eq
  Matrix.detp_eq_of_row_eq
  MDifferentiable.apply_eq_of_compactSpace
  measurable_const'
  MeasureTheory.IsProjectiveMeasureFamily.measure_univ_eq
  MeasureTheory.stronglyMeasurable_const'
  MemHolder.nnHolderNorm_eq_zero
  preconnectedSpace_of_forall_constant
  PreconnectedSpace.constant
  Semiquot.univ_unique
  Set.range_const_eq_diagonal
  Tactic.ComputeAsymptotics.Seq.FriendlyOperation.op_cons_head_eq
  TotallyDisconnectedSpace.eq_of_continuous
  Trunc.finLiftOn
  Trunc.finLiftOn_empty
  Trunc.finLiftOn_mk
  Trunc.lift
  Trunc.lift_mk
  Trunc.liftOn
  uniformContinuous_of_const
  CategoryTheory.Abelian.Pseudoelement.zero_eq_zero'
  CategoryTheory.any_functor_const_on_obj
  CategoryTheory.constant_of_preserves_morphisms
  CategoryTheory.CosimplicialObject.augment
  CategoryTheory.CosimplicialObject.augment_hom_app
  CategoryTheory.CosimplicialObject.augment_hom_zero
  CategoryTheory.CosimplicialObject.augment_left
  CategoryTheory.CosimplicialObject.augment_right
  CategoryTheory.Functor.OneHypercoverDenseData.essSurj.restriction.res_eq_res
  CategoryTheory.Functor.thin_diagram_of_surjective
  CategoryTheory.IsConnected.of_any_functor_const_on_obj
  CategoryTheory.IsConnected.of_constant_of_preserves_morphisms
  CategoryTheory.IsPreconnected.of_any_functor_const_on_obj
  CategoryTheory.IsPreconnected.of_constant_of_preserves_morphisms
  CategoryTheory.Limits.Cotrident.IsColimit.desc'
  CategoryTheory.Limits.Cotrident.IsColimit.homIso
  CategoryTheory.Limits.Cotrident.IsColimit.homIso_apply_coe
  CategoryTheory.Limits.Cotrident.IsColimit.homIso_natural
  CategoryTheory.Limits.Cotrident.IsColimit.homIso_symm_apply
  CategoryTheory.Limits.Cotrident.ofπ
  CategoryTheory.Limits.Cotrident.ofπ_pt
  CategoryTheory.Limits.Cotrident.ofπ_ι_app
  CategoryTheory.Limits.Cotrident.π_ofπ
  CategoryTheory.Limits.ImageMap.map_uniq
  CategoryTheory.Limits.Trident.IsLimit.homIso
  CategoryTheory.Limits.Trident.IsLimit.homIso_apply_coe
  CategoryTheory.Limits.Trident.IsLimit.homIso_natural
  CategoryTheory.Limits.Trident.IsLimit.homIso_symm_apply
  CategoryTheory.Limits.Trident.IsLimit.lift'
  CategoryTheory.Limits.Trident.ofι
  CategoryTheory.Limits.Trident.ofι_pt
  CategoryTheory.Limits.Trident.ofι_π_app
  CategoryTheory.Limits.Trident.ι_ofι
  CategoryTheory.Limits.wideCoequalizer.condition
  CategoryTheory.Limits.wideCoequalizer.desc
  CategoryTheory.Limits.wideCoequalizer.desc.congr_simp
  CategoryTheory.Limits.wideCoequalizer.desc'
  CategoryTheory.Limits.wideCoequalizer.π_desc
  CategoryTheory.Limits.wideCoequalizer.π_desc_assoc
  CategoryTheory.Limits.wideEqualizer.condition
  CategoryTheory.Limits.wideEqualizer.lift
  CategoryTheory.Limits.wideEqualizer.lift_ι
  CategoryTheory.Limits.wideEqualizer.lift_ι_assoc
  CategoryTheory.Limits.wideEqualizer.lift.congr_simp
  CategoryTheory.Limits.wideEqualizer.lift'
  CategoryTheory.nat_trans_from_is_connected
  CategoryTheory.SimplicialObject.augment
  CategoryTheory.SimplicialObject.augment_hom_app
  CategoryTheory.SimplicialObject.augment_hom_zero
  CategoryTheory.SimplicialObject.augment_left
  CategoryTheory.SimplicialObject.augment_right
  ```
  </details>

I don't think all of them should switch to `IsConst`, but probably many should.
